US08022062B2
Use a method similar to the General Procedure 5-3 to couple 3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (430 mg, 0.94 mmol) with (S)-1-(4-fluorophenyl)ethylamine (195 mg, 1.40 mmol). Purify by chromatography on silica gel eluting with EtOAc/hexane (1:8) to give (S)-6-[1-(4-fluorophenyl)-ethylamino]-3-(2,2,2-trifluoroacetyl)-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (279 mg, 65%). MS (ES+) m/z: 449 (M+H)+.

reactant | 3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.94 mmol, 430 mg | FC(C(=O)N1CCC2=C(CC1)C(=C(C=C2)C(F)(F)F)OS(=O)(=O)C(F)(F)F)(F)F | C14H10F9NO4S
reactant | (S)-1-(4-fluorophenyl)ethylamine | 1.40 mmol, 195 mg | FC1=CC=C(C=C1)[C@H](C)N | C8H10FN
product | (S)-6-[1-(4-fluorophenyl)-ethylamino]-3-(2,2,2-trifluoroacetyl)-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 279 mg, 65% | FC1=CC=C(C=C1)[C@H](C)NC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C(F)(F)F | C21H19F7N2O
